US04329347
6-(4-Cyclohexylmercapto-butoxy)-carbostyril
Prepared analogous to Example 122 from 6-(4-bromobutoxy)-carbostyril (m.p.: 198°-199° C.) and cyclohexyl mercaptan.

reactant | 6-(4-bromobutoxy)-carbostyril | BrCCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H14BrNO2
reactant | cyclohexyl mercaptan | C1(CCCCC1)S | C6H12S
product | 6-(4-Cyclohexylmercapto-butoxy)-carbostyril | C1(CCCCC1)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C19H25NO2S
